US05705516
Step 1: Preparation of 5-methoxymethyl-1,3,4-oxathiazol-2-one
Chlorocarbonylsulfenyl chloride (7.35 g) was added to a suspension of methoxyacetamide (5 g) in toluene (30 cm3). The reaction mixture was stirred and heated at 90°-100° C. for 5 hours, then cooled. The solvent was removed by evaporation under reduced pressure to give a brown gum (6.6 g). M+ =147; 1H NMR (DMSO-d6): δ 3.30(3H,s); 4.30(2H,s) which was used in the next step without further purification.

reactant | Chlorocarbonylsulfenyl chloride | 7.35 g | ClC(=O)SCl | CCl2OS
reactant | methoxyacetamide | 5 g | COCC(=O)N | C3H7NO2
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
product | 5-methoxymethyl-1,3,4-oxathiazol-2-one | 6.6 g | COCC1=NSC(O1)=O | C4H5NO3S
